US09085570B2
Mesyl chloride (1.78 mL, 23.0 mmol) was added dropwise to a stirred suspension of hexaethylene glycol (5.42 g, 19.2 mmol) and Ag2O (4.67 g, 20.2 mmol) in dry DCM (50 mL) at 20° C. and the mixture was stirred at 20° C. for 3 days. The mixture was filtered through Celite® and the solvent evaporated. The residue was purified by column chromatography, eluting with a gradient (0-10%) of MeOH/EtOAc, to give 17-hydroxy-3,6,9,12,15-pentaoxaheptadec-1-yl methanesulfonate (3.52 g, 51%) as a colourless oil: 1H NMR (CDCl3) δ 4.36-4.40 (m, 2 H, CH2OSO2), 3.76-3.78 (m, 2 H, CH2O), 3.70-3.74 (m, 2 H, CH2O), 3.64-3.67 (m, 16 H, 8×CH2O), 3.59-3.62 (m, 2 H, CH2O), 3.09 (s, 3 H, SO2CH3), 2.80 (br s, 1 H, OH); MS m/z 361.6 (MH+, 100%). A mixture of the mesylate (3.52 g, 9.8 mmol) and NaN3 (1.27 g, 19.5 mmol) in dry DMF (20 mL) was stirred at 110° C. for 2 h. The mixture was cooled to 20° C. and the solvent evaporated. The residue was purified by column chromatography, eluting with 10% MeOH/EtOAc, to give 17-azido-3,6,9,12,15-pentaoxaheptadecan-1-ol (2.98 g, 99%) as a colourless oil: 1H NMR (CDCl3) δ3.71-3.74 (m, 2H, CH2O), 3.65-3.69 (m, 18H, 9×CH2O), 3.59-3.62 (m, 2H, CH2O), 3.39 (br t, J=5.2Hz, 2H, CH2N3), 2.82 (br s, 1H, OH); MS m/z 308.5 (MH+, 100%). A mixture of azide (2.98 g, 9.7 mmol) and Pd/C (100 mg) in EtOH (50 mL) was stirred under H2 (60 psi) for 1 h. The mixture was filtered through Celite® and washed with EtOH (3×20 mL) and the solvent was evaporated. The crude residue was dissolved in DCM (50 mL) and di-tert-butyl dicarbonate (2.56 g, 11.7 mmol) in DCM (20 mL) was added dropwise and the solution was stirred at 20° C. for 16 h. The solvent was evaporated and residue was purified by column chromatography, eluting with 10% MeOH/EtOAc, to give tert-butyl 17-hydroxy-3,6,9,12,15-pentaoxaheptadec-1-ylcarbamate (2.97 g, 80%) as a colourless oil: 1H NMR (CDCl3) δ 5.17 (br s, 1H, NHCO2), 3.70-3.74 (m, 2 H, CH2O), 3.60-3.68 (m, 18 H, 9×CH2O), 3.54 (br t, J=5.1Hz, 2H, CH2O), 3.31 (br q, J=5.1Hz, 2 H, CH2N), 2.81 (br s, 1 H, OH), 1.44 [s, 9 H, C(CH3)3]; MS m/z 382.5 (MH+, 100%). NaH (343 mg, 8.56 mmol) was added in small portions to a stirred solution of alcohol (2.97 g, 7.8 mmol) in THF (50 mL) at 0° C. and the resulting mixture stirred at 0° C. for 30 min. Propargyl bromide (0.87 mL, 7.8 mmol) was added followed by tetrabutylammonium iodide (29 mg, 78 μmol) and the mixture was stirred at 20° C. for 16 h. The reaction was quenched with sat. aq. NH4Cl and extracted with EtOAc (4×50 mL). The combined organic fraction was washed with brine (50 mL), dried and the solvent evaporated. The residue was purified by column chromatography, eluting with 80% EtOAc/pet. ether, to give the acetylene 58 (2.56 g, 79%) as a colourless oil: 1H NMR (CDCl3) δ 5.05 (br s, 1 H, NHCO2), 4.20 (d, J=2.4Hz, 2 H, CH2C≡C), 3.68-3.71 (m, 4 H, 2×CH2O), 3.64-3.67 (m, 12H, 6×CH2O), 3.60-3.63 (m, 4 H, 2×CH2O), 3.54 (br t, J=5.2Hz, 2 H, CH2O), 3.31 (br q, J=5.2Hz, 2 H, CH2N), 2.42 (t, J=2.4Hz, 1 H, CH), 1.44 [s, 9 H, C(CH3)3]; MS m/z 420.7 (MH+, 100%); HRMS calcd for C20H38N4O8S (MH+): m/z 420.2592. found m/z 420.2590 (0.4 ppm).

reactant | Mesyl chloride | 23.0 mmol, 1.78 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | hexaethylene glycol | 19.2 mmol, 5.42 g | C(COCCOCCOCCOCCOCCO)O | C12H26O7
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 17-hydroxy-3,6,9,12,15-pentaoxaheptadec-1-yl methanesulfonate | 3.52 g, 51% | CS(=O)(=O)OCCOCCOCCOCCOCCOCCO | C13H28O9S
